US07655666B2
N-[6-(3-Methoxy-propionyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
A solution of CH3SO2NHNH2 (61 mg, 0.555 mmol) in THF (1 mL) was slowly added dropwise to a solution of 2-isocyanato-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester (167 mg, 0.505 mmol) in dry THF (2.6 mL). After stirring the mixture at r.t. for 105 min, aq NaOH (1 M, 0.53 mL) was added and stirring was continued for 60 min. The reaction mixture was concentrated and the residue was taken in EtOAc and washed with water. The aqueous phase was extracted with EtOAc (3×), all organic phases are combined, washed with brine and dried (Na2SO4) and the solvent was evaporated to dryness yielding the title compound (194 mg, 94%) as a white powder, mp 186-191° C.

reactant | CH3SO2NHNH2 | 0.555 mmol, 61 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | 2-isocyanato-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester | 0.505 mmol, 167 mg | COC(C1=C(C=C(C(=C1)C(CCOC)=O)C(F)(F)F)N=C=O)=O | C14H12F3NO5
reactant | NaOH | 1 M, 0.53 mL | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | N-[6-(3-Methoxy-propionyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 194 mg, 94% | COCCC(=O)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H14F3N3O6S
